US07026478B2
To a solution of methyl 4-chlorobenzoate (300 mg, 1.76 mmol) and Fe(acac)3 (71 mg, 0.2 mmol) in THF (7 mL) and NMP (1.1 mL) at −60° C. is added a solution of C14H29MgCl (1M in THF, 2.3 mL). The mixture immediately turns black and becomes viscous after 3 min. Work-up as described above provides methyl 4-(tetradecyl)benzoate as a low-melting solid (92%). Mp=28–29° C. 1H NMR (300 MHz, CDCl3): δ 7.92 (dd, 2H, J=6.5, 1.8 Hz), 7.21 (dd, 2H, J=6.4, 1.7 Hz), 3.87 (s, 3H), 2.63 (t, 2H, J=7.7 Hz), 1.60 (m, 2H), 1.38–1.06 (m, 24H), 0.86 (t, 3H, J=6.7 Hz). 13C NMR (75 MHz, CDCl3): δ 167.6, 148.9, 130.0, 128.8, 128.0, 52.3, 36.4, 32.3, 31.5, 30.09, 30.07, 30.05, 30.00. 29.95, 29.9, 29.8, 29.7, 23.1, 14.5. IR: 3091, 3061, 3031, 2925, 2854, 1726, 1611, 1574, 1510, 1466, 1435, 1415, 1377, 1309, 1277, 1191, 1178, 1109, 1021, 970, 854, 763, 722, 704 cm−1. MS m/z (rel. intensity) 332 (100, [M+]), 301 (1), 163 (34), 150 (60), 149 (29).

reactant | methyl 4-chlorobenzoate | 1.76 mmol, 300 mg | ClC1=CC=C(C(=O)OC)C=C1 | C8H7ClO2
reactant | C14H29MgCl | 1M, 2.3 mL | C(CCCCCCCCCCCCC)[Mg]Cl
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | NMP | 1.1 mL | CN1CCCC1=O | C5H9NO
product | methyl 4-(tetradecyl)benzoate | 92% | C(CCCCCCCCCCCCC)C1=CC=C(C(=O)OC)C=C1 | C22H36O2
